*-----------------------------------------------------------------------------
*
* To use a subcircuit, the name must begin with 'X'.  For example:
* X1 1 2 3 4 5 uA741
*
* connections:   non-inverting input
*                |  inverting input
*                |  |  positive power supply
*                |  |  |  negative power supply
*                |  |  |  |  output
*                |  |  |  |  |
.subckt uA741    1  2  3  4  5
*
  c1   11 12 8.661E-12
  c2    6  7 30.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 10.61E6 -10E6 10E6 10E6 -10E6
  ga    6  0 11 12 188.5E-6
  gcm   0  6 10 99 5.961E-9
  iee  10  4 dc 15.16E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 5.305E3
  rc2   3 12 5.305E3
  re1  13 10 1.836E3
  re2  14 10 1.836E3
  ree  10 99 13.19E6
  ro1   8  5 50
  ro2   7 99 100
  rp    3  4 18.16E3
  vb    9  0 dc 0
  vc    3 53 dc 1
  ve   54  4 dc 1
  vlim  7  8 dc 0
  vlp  91  0 dc 40
  vln   0 92 dc 40
.model dx D(Is=800.0E-18 Rs=1)
.model qx NPN(Is=800.0E-18 Bf=93.75)
.ends

.options savecurrents

Vcc vcc 0 5.0
Vee vee 0 -5.0
Vin in 0 0 ac 1.0 sin(0 10m 1k)

X1 n_inv inv vcc vee out uA741

C1 in n_inv 220n
C2 out 0 220n

R1 n_inv 0 1000
R2 out_amp out 1000
R3 out_amp inv 100000
R4 inv 0 1000

* load
RL out 0 8

.op
.end

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet


print all



* time analysis
tran 1e-5 1e-2
plot v(out)
hardcopy vo1.ps v(out)



* frequency analysis
ac dec 10 10 100MEG
plot vdb(out)
plot vp(out)
hardcopy vo1f.ps vdb(out)

echo vo1f_FIG
hardcopy vin.ps v(in)

let v(out2) = 180/PI*ph(v(out))
hardcopy phase.eps v(out2)



*Gain 
let gain = vecmax(vdb(out))
let gain_opamp= vecmax(vdb(out_amp))


let threshold = vecmax(vdb(out))-3
meas ac lowerfreq WHEN vdb(out) = threshold RISE = 1
meas ac upperfreq WHEN vdb(out) = threshold CROSS = LAST


*central frequency

let centralFreq = sqrt(lowerfreq*upperfreq)



echo  "freq_TAB"
print lowerfreq
print upperfreq
print centralFreq
echo  "freq_END"

let Zin = abs(v(in)[40]/Vin#branch[40])

echo  "gain_TAB"
print gain 
echo  "gain_END"

echo  "input_TAB"
print Zin
echo  "input_END"

*merit
let gainDev=abs(vecmax(vdb(out))-40)
let centralDev=abs(centralFreq-1000)
let cost= (1+1+1+100) + (0.000000220*2)*1000000 + 13323
let merit=1/(cost*(gainDev+centralDev+(1e-6)))


echo  "merit_TAB"
print gainDev 
print centralDev 
print cost 
print merit
echo  "merit_END"



quit
.endc 
